US08975254B2
(S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-5-(morpholinomethyl)isoxazole-3-carboxamide was prepared using the method of Example 34(d) starting from (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile (200 mg, 0.690 mmol) and 5-(morpholinomethyl)isoxazole-3-carboxylic acid hydrochloride (206 mg, 0.828 mmol). The product was purified by reverse phase Flash-chromatography. Yield 16.9%. 1H-NMR (400 MHz; MeOD): δ 1.26 (d, 3H), 2.47-2.56 (m, 4H), 3.65-3.71 (m, 4H), 3.75 (d, 2H), 4.28-4.44 (m, 2H), 4.53-4.63 (m, 1H), 6.59 (t, 1H), 6.77 (d, 1H), 7.71 (d, 1H), 7.78 (dd, 1H), 7.88 (dd, 1H), 8.08 (dd, 1H).

reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | 0.690 mmol, 200 mg | N[C@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl)C | C13H13ClN4
reactant | 5-(morpholinomethyl)isoxazole-3-carboxylic acid hydrochloride | 0.828 mmol, 206 mg | Cl.O1CCN(CC1)CC1=CC(=NO1)C(=O)O
product | (S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-5-(morpholinomethyl)isoxazole-3-carboxamide | Yield 16.9% | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C1=NOC(=C1)CN1CCOCC1 | C22H23ClN6O3
